US05348978
a) α(S)-Hydroxycyclohexanepropanoic acid
α(S)-Hydroxybenzene propanoic acid (4.99 g, 30 mmol) was hydrogenated at 4 bar in ethanol (175 ml) and acetic acid (10 ml) using platinum oxide (0.5 g) as catalyst. After filtration, evaporation of the solvent gave the sub-title acid (4.92 g).

reactant | α(S)-Hydroxybenzene propanoic acid | 30 mmol, 4.99 g | O[C@H](C(=O)O)CC1=CC=CC=C1 | C9H10O3
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 175 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.5 g | [Pt]=O
product | α(S)-Hydroxycyclohexanepropanoic acid | 4.92 g | O[C@H](C(=O)O)CC1CCCCC1 | C9H16O3
